US08053439B2
Synthesis of (2-methoxy-5-(methylthiazol-4-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone
(2-Fluoro-5-(2-methylthiazol-4-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone (50 mg, 0.13 mmol) as a synthetic intermediate of Compound 596 was dissolved in NaOMe (2 ml) and methanol (5 ml). The solution was heat refluxed for 3 hours. After completion of the reaction, the reaction solution was extracted with water and dichloromethane, and the organic layer was vacuum concentrated.

reactant | (2-Fluoro-5-(2-methylthiazol-4-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone | 0.13 mmol, 50 mg | FC1=C(C=C(C=C1)C=1N=C(SC1)C)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C20H18FNO4S
reactant | NaOMe | 2 ml | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (2-methoxy-5-(methylthiazol-4-yl)phenyl)(3,4,5-trimethoxyphenyl)methanone | COC1=C(C=C(C=C1)C=1N=C(SC1)C)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H21NO5S
